US06605607B1
3-(tert-Butyloxycarbonyl)-7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine
To a solution of 7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine, hydrobromide (14.5 g) in tetrahydrofuran (100 ml) and water (70 ml), was added triethylamine (8 g), followed by a solution of di-tert-butyl dicarbonate (14 g) in THF (20 ml). The resulting mixture was allowed to stir at 20° C. for 16 h, partitioned between ethyl acetate (200 ml) and water (200 ml). The aqueous layer was washed with ethyl acetate (100 ml). The combined organic extracts were washed with saturated aqueous sodium bicarbonate (100 ml), dried (Na2SO4) and evaporated to dryness in vacuo. The resulting oil was purified by silica gel chromatography. Elution with ethyl acetate in hexane (10%-30%) gave the title compound (8 g).

reactant | 7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine, hydrobromide | 14.5 g | Br.OC1=CC2=C(CCNCC2)C=C1
reactant | triethylamine | 8 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 14 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 70 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(tert-Butyloxycarbonyl)-7-hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 8 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)O | C15H21NO3
